US05589473
(4R,9R)-16-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-9-trityloxymethyl-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione was treated with 4-toluenesulfonic acid monohydrate in methanol at 20° C. for 30 min to yield (4R,9R)-16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-9-hydroxymethyl-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione as a white foam.

reactant | (4R,9R)-16-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-9-trityloxymethyl-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione | C[Si](OC1=CC(=C(C=2C(OC[C@H](CCC(N[C@@H](CSCC21)C2=NC(=NO2)C)=O)COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C)OC)(C(C(C)C)(C)C)C | C48H59N3O7SSi
reactant | 4-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | CO | CH4O
product | (4R,9R)-16-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-9-hydroxymethyl-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-6,12-dione | C[Si](OC1=CC(=C(C=2C(OC[C@H](CCC(N[C@@H](CSCC21)C2=NC(=NO2)C)=O)CO)=O)C)OC)(C(C(C)C)(C)C)C | C29H45N3O7SSi
